US05824690
Combine 1-benzyl-4-cyano-4-(pyridin-4-yl)-piperidine hydrochloride (1.6 g, 4.5 mmol), a concentrated aqueous sodium hydroxide solution (1.5 mL, 50%, 9 mmol) and ethanol (30 mL). Heat to about 55° C. Add an aqueous solution of hydrogen peroxide (3.0 mL, 30%, 26 mmol) over about 10 minutes. After 3 hours, add an aqueous solution of hydrogen peroxide (2.0 mL). After 1 hour, cool to ambient temperature and dilute with water (20 mL), concentrate in vacuo, add water (40 mL), and again concentrate in vacuo to give a solid. Collect the solid by filtration, rinse with water, and dry to give 1-benzyl-(4-(pyridin-4-yl)-piperidine-4-carboxylic acid amide: Rf =0.20 (silica gel, 9/1 dichloromethane/methanol).

reactant | 1-benzyl-4-cyano-4-(pyridin-4-yl)-piperidine hydrochloride | 4.5 mmol, 1.6 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=NC=C1)C#N
reactant | sodium hydroxide | 9 mmol, 1.5 mL | [OH-].[Na+]
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | hydrogen peroxide | 26 mmol, 3.0 mL | OO | H2O2
reactant | hydrogen peroxide | 2.0 mL | OO | H2O2
solvent | water | 20 mL | O | H2O
product | 4-(pyridin-4-yl)-piperidine-4-carboxylic acid amide | N1=CC=C(C=C1)C1(CCNCC1)C(=O)N | C11H15N3O
